US07781426B2
To a −78° C. solution of 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde (230 mg, 0.461 mmol) in diethyl ether (5 mL) was added a solution of EtMgBr (230 μL, 0.691 mmol). The solution was stirred for 5 minutes, followed by a second addition of EtMgBr solution (230 μL, 0.691 mmol). After 5 minutes, the reaction was quenched with saturated NH4Cl solution (5 mL), diluted with EtOAc (60 mL), and washed with brine (30 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (10 to 35% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(1-hydroxypropyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.14 (25% EtOAc/hexanes). LCMS=512.1 (M+1−18)+. 1H NMR (CDCl3, 500 MHz, diastereomers present) δ 7.89-7.45 (m, 6H), 5.69-6.65 (m, 1H), 5.04-4.91 (m, 1H), 4.27-4.18 (m, 1H), 4.03-3.93 (m, 1H), 2.87 (m, 1H), 1.89-1.66 (m, 2H), 1.00-0.93 (m, 3H), 0.79-0.75 (m, 3H).

reactant | 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde | 0.461 mmol, 230 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=O)C=CC(=C1)C(F)(F)F)C)(F)F | C21H14F9NO3
reactant | EtMgBr | 0.691 mmol, 230 μL | CC[Mg+].[Br-]
reactant | EtMgBr | 0.691 mmol, 230 μL | CC[Mg+].[Br-]
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(1-hydroxypropyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C(CC)O)C)(F)F | C23H20F9NO3
